US06777432B1
[5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid ethyl ester
A solution of [5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid methyl ester (0.030 g, 0.99 mmole), ethanol (2 mL), and sulfuric acid (1 drop) was heated in a sealed tube at 80° C. After 6 h the reaction mixture was poured into ethyl acetate and washed with saturated sodium bicarbonate and dried over sodium sulfate. Removal of the solvents provided 6 mg (20%) of the titled product as a white solid:

reactant | [5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid methyl ester | 0.99 mmole, 0.030 g | COC(COC1=NC=C(C=C1)C(NC1=CC=C(C=C1)F)=O)=O | C15H13FN2O4
reactant | ethanol | 2 mL | C(C)O | C2H6O
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [5-(4-fluoro-phenylcarbamoyl)-pyridin-2-yloxy]-acetic acid ethyl ester | 6 mg, 20% | C(C)OC(COC1=NC=C(C=C1)C(NC1=CC=C(C=C1)F)=O)=O | C16H15FN2O4
